US05565450
1.0 g (10 mmol) of triethylamine and then 0.94 g (10 mmol) of methyl chloroformate in 10 ml of ethyl acetate are added dropwise at 0° C. to 3.4 g (10 mmol) of 2-(4-fluorophenyl)-6-hydroxy-5-(2,4,6-trimethyl-phenyl)-1,3-thiazin-4-one in 50 ml of ethyl acetate. The mixture is stirred for 8 hours at 20° C. and filtered, the organic phase is washed using half-concentrated sodium chloride elusion and dried over sodium sulphate, and the solvent is evaporated in vacuo. The residue is chromatographed on silica gel (35 to 70 μm) using toluene/acetone (20:1 parts by volume). 3.1 g of 2-(4-fluorophenyl)-6-methoxycarbonyloxy-5-(2,4,6-trimethylphenyl)-1,3-thiazin-4-one are obtained (yield: 78% of theory). M.p.=129° to 131° C.

reactant | triethylamine | 10 mmol, 1.0 g | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 10 mmol, 0.94 g | ClC(=O)OC | C2H3ClO2
reactant | 2-(4-fluorophenyl)-6-hydroxy-5-(2,4,6-trimethyl-phenyl)-1,3-thiazin-4-one | 10 mmol | FC1=CC=C(C=C1)C=1SC(=C(C(N1)=O)C1=C(C=C(C=C1C)C)C)O | C19H16FNO2S
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 2-(4-fluorophenyl)-6-methoxycarbonyloxy-5-(2,4,6-trimethylphenyl)-1,3-thiazin-4-one | 3.1 g, yield: 78% | FC1=CC=C(C=C1)C=1SC(=C(C(N1)=O)C1=C(C=C(C=C1C)C)C)OC(=O)OC | C21H18FNO4S
